US09056874B2
(±)-2-((5,7-Dimethyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (90 mg, 0.150 mmol) in CH2Cl2 (1.5 mL), BF3.OEt2 (0.095 mL, 0.749 mmol) was added at 0° C. After stirring for 5 min., the mixture was warmed to room temperature. After stirring for 1 h, the reaction mixture was diluted with 2M aq. Na2CO3 and EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated to give the title compound, without need of further purification. MS (ESI+) m/z 471 (M+H).

reactant | (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N)O | C32H36N4O4SSi
reactant | (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 0.150 mmol, 90 mg | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N)O | C32H36N4O4SSi
reactant | BF3.OEt2 | 0.749 mmol, 0.095 mL | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-2-((5,7-Dimethyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C1=NC2=C(N1)C=CC(=C2)C#N)O | C26H22N4O3S
